US08937091B2
4-bromo-1-methacryloylbenzene 8205
Bromobenzene (0.5 mL), methacryloyl chloride (110 mg), and aluminium chloride (150 mg) were reacted in dichloromethane (1.5 mL) at from −20° C. to room temperature for 4 hours. The resultant was treated in the same manner as described in Example 1 to obtain the title compound (1207 mg).

reactant | Bromobenzene | 0.5 mL | BrC1=CC=CC=C1 | C6H5Br
reactant | methacryloyl chloride | 110 mg | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | aluminium chloride | 150 mg | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | 4-bromo-1-methacryloylbenzene | 1207 mg | BrC1=CC=C(C=C1)C(C(=C)C)=O | C10H9BrO
